US07915281B2
3-Nitro-N-[(5-pyridin-3-ylisoxazol-3-yl)methyl]quinolin-4-amine (1.17 g, 3.37 mmol) was hydrogenated in the presence of 5% platinum on carbon (0.120 g) according to the method described in Part G of Example 35 to provide 0.96 g of N4-[(5-pyridin-3-ylisoxazol-3-yl)methyl]quinoline-3,4-diamine.

reactant | 3-Nitro-N-[(5-pyridin-3-ylisoxazol-3-yl)methyl]quinolin-4-amine | 3.37 mmol, 1.17 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCC1=NOC(=C1)C=1C=NC=CC1 | C18H13N5O3
catalyst | platinum on carbon | 0.120 g | [Pt] | Pt
product | N4-[(5-pyridin-3-ylisoxazol-3-yl)methyl]quinoline-3,4-diamine | 0.96 g | N1=CC(=CC=C1)C1=CC(=NO1)CNC1=C(C=NC2=CC=CC=C12)N | C18H15N5O
